US04939133
Under an argon atmosphere, a tetrahydrofuran (20 ml) solution of 4-[2-(3,4-dimethoxyphenyl)ethyl]benzenamine (2.50 g, 9.72 mmol) is cooled to 0° C. n-Butyllithium (2.3M, 4.2 ml, 9.72 mmol) is added, and the resulting solution is stirred for 15 minutes. A tetrahydrofuran (10 ml) solution of ethyl 5-chloro-2-hydroxy-α-oxobenzenacetate (0.74 g, 3.24 mmol) is then added, after which the solution is allowed to warm to ambient temperature over a 30 minute period. The contents are then poured into 5% hydrochloric acid (100 ml) and extracted into ethyl acetate. The organics are washed with 10% sodium bicarbonate and brine, then dried (sodium sulfate), and concentrated to give 1.51 g of a crude solid. Chromatography (Kieselgel 60, dichloromethane) affords N-[4-[2-(3,4-dimethoxyphenyl)ethyl]phenyl]-2-hydroxy-5-chloro-α-oxobenzeneacetamide (0.86 g, 61%), mp 128°-130° C.

reactant | 4-[2-(3,4-dimethoxyphenyl)ethyl]benzenamine | 9.72 mmol, 2.50 g | COC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)N | C16H19NO2
reactant | n-Butyllithium | 9.72 mmol, 2.3M, 4.2 ml | C(CCC)[Li]
reactant | ethyl 5-chloro-2-hydroxy-α-oxobenzenacetate | 3.24 mmol, 0.74 g | ClC=1C=CC(=C(C1)C(C(=O)OCC)=O)O | C10H9ClO4
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[4-[2-(3,4-dimethoxyphenyl)ethyl]phenyl]-2-hydroxy-5-chloro-α-oxobenzeneacetamide | 0.86 g, 61% | COC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)NC(C(C1=C(C=CC(=C1)Cl)O)=O)=O | C24H22ClNO5
